US06844362B2
5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-N-[2-(3-methoxyphenyl)ethyl]-1H-indole-2-carboxamide
Prepared analogously to 5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-N-(2-methoxybenzyl)-1H-indole-2-carboxamide using 3-methoxyphenethylamine to give the title compound as a pale brown foam.

reactant | 5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-N-(2-methoxybenzyl)-1H-indole-2-carboxamide | [Si](C)(C)(C(C)(C)C)O[C@@H](CN[C@@H](CC=1C=C2C=C(NC2=CC1)C(=O)NCC1=C(C=CC=C1)OC)C)C1=CC(=C(C=C1)O)CO | C35H47N3O5Si
reactant | 3-methoxyphenethylamine | COC=1C=C(CCN)C=CC1 | C9H13NO
product | 5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-N-[2-(3-methoxyphenyl)ethyl]-1H-indole-2-carboxamide | [Si](C)(C)(C(C)(C)C)O[C@@H](CN[C@@H](CC=1C=C2C=C(NC2=CC1)C(=O)NCCC1=CC(=CC=C1)OC)C)C1=CC(=C(C=C1)O)CO | C36H49N3O5Si
